.SUBCKT MAX407 1 2 99 50 97
****************INPUT STAGE**********************
I1 99 4 20U
M1   5  2 4 99 MOSFET
R3   5 50 5.2696K
M2   6  7 4 99 MOSFET
R4   6 50 5.2696K
CI1  1  0 2P
CI2  2  0 2P
DP1  1 99 DA
DP2 50  1 DX
DP3  2 99 DX
DP4 50  2 DB
************ GSUP CREATES AVOL VS VSUPPLY ********
EH 99 98 99 50 0.5
GSUP 0 106 POLY(1) 99 50 320 -41 1.2
*THIS POLY VCCS MODELS THE OPEN LOOP GAIN AS
*A FUNCTION OF THE POWER SUPPLY, WHICH WILL BE MULT. NODE 5,6 VOLT.
RVSUP 0 106 1E4
************ GAIN, 1ST POLE, SLEW STAGE************
G0 98 9 POLY(2) 5 6 106 0 0 0 0 0 1E-6
*GO MULTIPLIES NODE 106, AVOL VS SUPPLY, AND NODES 5,6 FROM INPUT STAGE.
VS 9 10 0V
R0  98  9 1E6
C3 10 98 19UF
D1 9 111 DX
D2 112 9 DX
V11 99 111 .5V
V12 112 50 .5V
I2 99 50 -18U
* TYPICAL SUPPLY CURRENT 2UA
EOS 7 1 POLY(1) 16 98 1M 1
*********COMMON-MODE ZERO STAGE********
G4 98 16 POLY(2) 1 98 2 98 0 1E-7 1E-7
R13 98 16 500
******* POLE AND STAGE **********
G3 98 15 10 98 1E-3
R12 98 15 1E3
C5 98 15 14.5N
*
*************OUTPUT STAGE****************
F5 99 38 VA8 1
D9 40 38 DX
D10 38 99 DX
VA7 99 40 0
G12 98 32 15 98 1E-6
*                ^ INSERT NODE FROM LAST STAGE HERE
R15 98 32 1E6
D3 32 36 DX
D4 37 32 DX
V5 35 37 .2V
V4 36 35 -.2V
*V5,V4 SET ISC
R16 34 35 1K
E1 99 33 99 32 1
VA8 33 34 0V
L 35 97 0.2
RCON 35 97 15K
*RCON ALSO  ENHANCES CONVERGENCE FEATURES
******************************************
.MODEL DA D(IS=100E-14 RS=0.5K)
.MODEL DB D(IS=100E-14 RS=0.5K)
.MODEL DX D(IS=100E-14)
.MODEL MOSFET PMOS(VTO=-1.7 KP=1.8E-3)
*VTO ESTABLISHES INPUT VOLT. RANGE
.ENDS MAX407
